US07964645B2
Preparation of rac-N-({[(4-Chloro-phenyl)-phenyl-methyl]-carbamoyl}-methyl)-benzamide
Prepared in analogy to example 1.1 from rac-4-chlorobenzhydrylamine hydrochloride and hippuric acid.

reactant | rac-4-chlorobenzhydrylamine hydrochloride | Cl.ClC1=CC=C(C(C2=CC=CC=C2)N)C=C1
reactant | hippuric acid | C(CNC(=O)C1=CC=CC=C1)(=O)O | C9H9NO3
product | rac-N-({[(4-Chloro-phenyl)-phenyl-methyl]-carbamoyl}-methyl)-benzamide | ClC1=CC=C(C=C1)C(C1=CC=CC=C1)NC(=O)CNC(C1=CC=CC=C1)=O | C22H19ClN2O2
